US08497263B2
To a mixture of 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-carboxybenzoyl)-1,5-dihydropyrrol-2-one (0.095 g, 0.2 mmol) and DMF (2 mL) was added, methylamine hydrochloride (0.020 g, 0.3 mmol), 1-hydroxybenztriazole (0.041 g, 0.3 mmol), 4-dimethylaminopyridinium (0.005 g, 0.04 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.058 g, 0.3 mmol) and triethylamine (0.042 mL, 0.3 mmol). The mixture was stirred at r.t. for 1 hr. Ethyl acetate and water were added, and the precipitate was collected by filtration to give 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-methylcarbamoylbenzoyl)-1,5-dihydropyrrol-2-one (0.062 g, 64%) as pale yellow crystals.

reactant | 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-carboxybenzoyl)-1,5-dihydropyrrol-2-one | 0.2 mmol, 0.095 g | C1(CCCCC1)C1C(=C(C(N1C1=CC=C(C=C1)C1=NOC=C1)=O)O)C(C1=CC=C(C=C1)C(=O)O)=O | C27H24N2O6
reactant | methylamine hydrochloride | 0.3 mmol, 0.020 g | Cl.CN
reactant | 1-hydroxybenztriazole | 0.3 mmol, 0.041 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-dimethylaminopyridinium | 0.04 mmol, 0.005 g | CN(C1=CC=[NH+]C=C1)C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.3 mmol, 0.058 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.3 mmol, 0.042 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-cyclohexyl-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-4-(4-methylcarbamoylbenzoyl)-1,5-dihydropyrrol-2-one | 0.062 g, 64% | C1(CCCCC1)C1C(=C(C(N1C1=CC=C(C=C1)C1=NOC=C1)=O)O)C(C1=CC=C(C=C1)C(NC)=O)=O | C28H27N3O5
